US07208493B2
6-(2,6-Dimethylphenyl)-3-(3-hydroxy-propionyl)-3H-quinazolin-4-one
To a solution of 6-Bromo-3-(3-hydroxy-propionyl)-3H-quinazolin-4-one (9.8 mg, 0.033 mmol) dissolved in 1 ml N,N-dimethylacetamide in a 20 ml vial, 2,6-dimethylphenyl boronic acid (9.89 mg, 0.066 mmol) dissolved in 0.5 ml ethanol and potassium carbonate (5 mg, 0.036 mmol) dissolved in 0.5 ml water were added. Triphenylphosphine (0.87 mg, 3.3 umol) and tris(dibenzylideneacetone)dipalladium(0) (0.6 mg, 0.6 umol) were added to the mixture which refluxed overnight. The crude product was poured into 5 ml saturated bicarbonate solution and methylene chloride was used to extract the product. Solvent in the organic phase was removed under vacuum. The resulted residue was purified by preparative HPLC. 5.2 mg product was obtained. Yield: 49%; 1H NMR (500 MHz, DMSO-d6): δ 1.96247(s, 6H), 2.76290–2.79002(t, J=6.805 Hz, 2H), ), 4.15954–4.18664 (t, J=6.785 Hz, 2H), 7.14682–7.7.1621(d, J=7.64 Hz, 1H), 7.19338–7.21062(dd, J1=8.62 Hz, J2=6.41 Hz, 1H), 7.60532–7.62604(dd, J1=8.365 Hz, J2=2.03 Hz, 1H), 7.75204–7.76861 (d, J=8.285 Hz, 1H), 7.84928–7.85312(d, J=1.92 Hz, 1H), 8.41195(s, 1H); ESI-MS: m/z 323 (M++1)

reactant | 6-Bromo-3-(3-hydroxy-propionyl)-3H-quinazolin-4-one | 0.033 mmol, 9.8 mg | BrC=1C=C2C(N(C=NC2=CC1)C(CCO)=O)=O | C11H9BrN2O3
reactant | 2,6-dimethylphenyl boronic acid | 0.066 mmol, 9.89 mg | CC1=C(C(=CC=C1)C)B(O)O | C8H11BO2
reactant | potassium carbonate | 0.036 mmol, 5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Triphenylphosphine | 3.3 umol, 0.87 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bicarbonate | 5 ml | C([O-])(O)=O
solvent | N,N-dimethylacetamide | 1 ml | CN(C(C)=O)C | C4H9NO
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | water | 0.5 ml | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.6 umol, 0.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-(2,6-Dimethylphenyl)-3-(3-hydroxy-propionyl)-3H-quinazolin-4-one | 5.2 mg, Yield: 49% | CC1=C(C(=CC=C1)C)C=1C=C2C(N(C=NC2=CC1)C(CCO)=O)=O | C19H18N2O3
